US05817671
5-(N-[2,2-dimethylpropanoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.010 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.067 mL (0.048 mMol) 2,2-dimethylpropanoyl chloride, 0.0067 gm (48%) of the title compound were prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.010 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2,2-dimethylpropanoyl chloride | 0.048 mMol, 0.067 mL | CC(C(=O)Cl)(C)C | C5H9ClO
product | 5-(N-[2,2-dimethylpropanoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.0067 gm, 48% | CC(C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C)(C)C | C18H26N4O
